**********
* Copyright Intusoft 1988-1997
* All Rights Reserved
**********
**********
*SRC=UA723;UA723;Voltage Reg.;;TI
*SYM=UA723
.SUBCKT UA723 26 17  13    7  11   25  24  1    27  37
*             CS IN- IN+ VREF VCC- OUT VC VCC+ FRCO CL
*INCLUDE DEVICE.LIB     
Q18 36 36 15 QP 
R1 19 36 15K    
J2 19 11 11 JMOD
.MODEL JMOD NJF VTO=-3 RS=1 RD=1 LAMBDA=.02 CGS=5P CGS=5P       
Q4 1 9 4 QN     
Q5 1 4 5 QN     
R2 5 7 100      
Q6 9 8 11 QN    
R3 8 6 30K      
C1 9 8 5PF      
R4 14 11 300    
R5 11 10 20K    
Q7 115 10 14 QN 
R6 6 11 5K      
Q8 21 10 12 QN  
R7 12 11 150    
Q10 4 13 21 QN  
Q11 27 17 21 QN 
R8 15 1 500     
R9 3 1 25K      
R10 16 1 1K     
Q12 115 36 16 QP
R11 18 1 1K     
Q13 27 36 18 QP 
Q14 5 115 10 QN 
Q15 1 27 22 QN  
R12 22 25 15K   
Q16 24 22 25 QOUT       
X1 20 25 LZEN#0 
*{ZV=6.2}       
X2 6 7 LZEN#0   
*{ZV=6.2}       
X3 19 1 LZEN#0  
*{ZV=6.2}       
I1 0 20 0       
Q17 27 37 26 QN 
I2 0 26 0       
I3 0 37 0       
Q19 9 36 3 QP   
.MODEL QN NPN BF=60 BR=2 RB=80 IS=1E-16 VAF=50 CJE=10P CJC=10P    
+ TF=5N TR=25N RC=20
.MODEL QP PNP BF=20 BR=2 RB=20 RC=5 VA=50 CJE=5P CJC=5P
+ TF=10N TR=50N
.MODEL QOUT NPN BF=80 RB=10 RC=5 IS=1E-16 VAF=50 CJE=10P CJC=10P     
+ TF=3N TR=20N 
.ENDS   
.SUBCKT LZEN#0 1 2      
D1 1 2 DZEN     
.MODEL DZEN D(RS=4.6846 
+ BV=6.5063     
+ CJO=346.26P TT=50N M=.33 VJ=.75 IS=1E-11 N=1.27 IBV=20MA)     
.ENDS   
**********
*SRC=LM317TI;LM317TI;Voltage Reg.;TI;
*SYM=LM317TI
.SUBCKT LM317TI 1      2    3
*Connections  Input  Adj. Output
*LM317 voltage regulator - Texas Instruments
J1 1 3 4 JN
Q2 5 5 6 QPL .1
Q3 5 8 9 QNL  .2
Q4 8 5 7 QPL .1
Q5 81 8 3 QNL .2
Q6 3 81 10 QPL .2
Q7 12 81 13 QNL  .2
Q8 10 5 11 QPL  .2 
Q9 14 12 10 QPL .2
Q10 16 5 17 QPL  .2
Q11 16 14 15 QNL .2
Q12 3 20 16 QPL .2
Q13 1 19 20 QNL .2
Q14 19 5 18 QPL .2
Q15 3 21 19 QPL .2
Q16 21 22 16 QPL .2
Q17 21 3 24 QNL   .2
Q18 22 22 16 QPL .2
Q19 22 3 241 QNL 2
Q20 3 25 16 QPL .2
Q21 25 26 3 QNL .2
Q22A 35 35 1 QPL 2
Q22B 16 35 1 QPL 2
Q23 35 16 30 QNL  2
Q24A 27 40 29 QNL .2
Q24B 27 40 28 QNL .2
Q25 1 31 41 QNL 5
Q26 1 41 32 QNL 50
D1 3 4 DZ
D2 33 1 DZ
D3 29 34 DZ
R1 1 6 310
R2 1 7 310
R3 1 11 190
R4 1 17 82
R5 1 18 5.6K
R6 4 8 100K
R7 8 81 130
R8 10 12 12.4K
R9 9 3 180
R10 13 3 4.1K
R11 14 3 5.8K
R12 15 3 72
R13 20 3 5.1K
R14 2 24 12K
R15 24 241 2.4K
R16 16 25 6.7K
R17 16 40 12K
R18 30 41 130
R19 16 31 370
R20 26 27 13K
R21 27 40 400
R22 3 41 160
R23 33 34 18K
R24 28 29 160
R25 28 32 3
R26 32 3 .1
C1 21 3 30PF
C2 21 2 30PF
C3 25 26 5PF
CBS1 5 3 2PF
CBS2 35 3 1PF
CBS3 22 3 1PF
.MODEL JN NJF(BETA=1E-4 VTO=-7)
.MODEL DZ D(BV=6.3)
.MODEL QNL NPN(EG=1.22 BF=80 RB=100 CCS=1.5PF TF=.3NS TR=6NS CJE=2PF
+ CJC=1PF VAF=100)
.MODEL QPL PNP(BF=40 RB=20 TF=.6NS TR=10NS CJE=1.5PF CJC=1PF VAF=50)
.ENDS 
**********
*SRC=LM317MOT;LM317MOT;Voltage Reg.;Motorola;
*SYM=LM317MOT
.SUBCKT LM317MOT 1      2    3
*Connections  Input  Adj. Output
*LM317A voltage regulator - Motorola
J1 1 3 4 JN
Q2 5 5 6 QPL .1
Q3 5 8 9 QNL  .2
Q4 8 5 7 QPL .1
Q5 81 8 3 QNL .2
Q6 3 81 10 QPL .2
Q7 12 81 13 QNL  .2
Q8 10 5 11 QPL  .2 
Q9 14 12 10 QPL .2
Q10 16 5 17 QPL  .2
Q11 16 14 15 QNL .2
Q12 3 20 16 QPL .2
Q13 1 19 20 QNL .2
Q14 19 5 18 QPL .2
Q15 3 21 19 QPL .2
Q16 21 22 16 QPL .2
Q17 21 3 24 QNL   .2
Q18 22 22 16 QPL .2
Q19 22 3 241 QNL 2
Q20 3 25 16 QPL .2
Q21 25 26 3 QNL .2
Q22A 35 35 1 QPL 2
Q22B 16 35 1 QPL 2
Q23 35 16 30 QNL  2
Q24A 27 40 29 QNL .2
Q24B 27 40 28 QNL .2
Q25 1 31 41 QNL 5
Q26 1 41 32 QNL 50
D1 3 4 DZ
D2 33 1 DZ
D3 29 34 DZ
R1 1 6 310
R2 1 7 310
R3 1 11 230
R4 1 17 120
R5 1 18 5.6K
R6 4 8 125K
R7 8 81 135
R8 10 12 12.4K
R9 9 3 190
R10 13 3 3.6K
R11 14 3 5.8K
R12 15 3 110
R13 20 3 5.1K
R14 2 24 12.5K
R15 24 241 2.4K
R16 16 25 6.7K
R17 16 40 12K
R18 30 41 160
R19 16 31 170
R20 26 27 6.8K
R21 27 40 510
R22 3 41 200
R23 33 34 13K
R24 28 29 105
R25 28 32 4
R26 32 3 .1
C1 21 3 30PF
C2 21 2 30PF
C3 25 26 5PF
CBS1 5 3 2PF
CBS2 35 3 1PF
CBS3 22 3 1PF
.MODEL JN NJF(BETA=1E-4 VTO=-7)
.MODEL DZ D(BV=6.3)
.MODEL QNL NPN(EG=1.22 BF=80 RB=100 CCS=1.5PF TF=.3NS TR=6NS CJE=2PF
+ CJC=1PF VAF=100)
.MODEL QPL PNP(BF=40 RB=20 TF=.6NS TR=10NS CJE=1.5PF CJC=1PF VAF=50)
.ENDS 
**********
*SRC=LM317NC;LM317NC;Voltage Reg.;Motorola;
*SYM=LM317NC
.SUBCKT LM317NC 1      2    3
*Connections  Input  Adj. Output
*LM317NC voltage regulator
J1 1 3 4 JN 
Q2 5 5 6 QPL .25   
Q3 5 8 9 QNL    
Q4 8 5 7 QPL .25   
Q5 81 8 3 QNL   
Q6 3 81 10 QPL  
Q7 12 81 13 QNL 
Q8 10 5 11 QPL  
Q9 14 12 10 QPL 
Q10 16 5 17 QPL 
Q11 16 14 15 QNL
Q12 3 20 16 QPL 
Q13 1 19 20 QNL 
Q14 19 5 18 QPL 
Q15 3 21 19 QPL 
Q16 21 22 16 QPL
Q17 21 3 24 QNL 
Q18 22 22 16 QPL
Q19 22 3 241 QNL 10 
Q20 3 25 16 QPL 
Q21 25 26 3 QNL 
Q22A 35 35 1 QPL 2  
Q22B 16 35 1 QPL 2 
Q23 35 16 30 QNL 2 
Q24A 27 40 29 QNL   
Q24B 27 40 28 QNL   
Q25 1 31 41 QNL 40  
Q26 1 41 32 QNL 200 
D1 3 4 DZ   
D2 33 1 DZ  
D3 29 34 DZ 
R1 1 6 310  
R2 1 7 310  
R3 1 11 190 
R4 1 17 82  
R5 1 18 5.6K    
R6 4 8 125K 
R7 8 81 130 
R8 10 12 12.4K  
R9 9 3 180  
R10 13 3 4.1K   
R11 14 3 5.8K   
R12 15 3 72 
R13 20 3 5.1K   
R14 2 24 12K    
R15 24 241 2.4K 
R16 16 25 6.7K  
R17 16 40 12K   
R18 30 41 160   
R19 16 31 170   
R20 26 27 13K   
R21 27 40 400   
R22 3 41 160    
R23 33 34 18K   
R24 28 29 160   
R25 28 32 3 
R26 32 3 .1 
C1 21 3 30PF    
C2 21 2 30PF    
C3 25 26 5PF    
.MODEL JN NJF(BETA=1E-4 VTO=-7) 
.MODEL DZ D(BV=6.3) 
.MODEL QNL NPN(EG=1.22 BF=80 RB=100 CCS=2PF TF=.3NS TR=6NS CJE=3PF  
+ CJC=2PF VAF=100)   
.MODEL QPL PNP(BF=40 RB=20 TF=1NS TR=20NS CJE=6PF CJC=4PF VAF=100)   
.ENDS   
**********
*SRC=UA723M;UA723M;Voltage Reg.;macro model;
*SYM=723MACRO
.SUBCKT UA723M  3   9    8   10  1   5   6     2
*               VC VCC -VCC REF OUT INV NINV  COMP
*INCLUDE BJTN.LIB
*INCLUDE DIODE.LIB
B1 4 8 V=V(2,8) < 2 ? 2 : V(2,8)
B2 10 8 V=V(9,8)-2 > 7.15 ? 7.15 : V(9,8)-2 < 0 ? 0 : V(9,8)-2
R1 2 8 333K
R4 10 8 1MEG
Q1 3 4 1 QN2222A
R5 9 8 5K 
R6 4 8 100K
G1 8 2 6 5 .003
V3 3 23 1.6
D1 2 23 DN4148
.ENDS
**********************
*SRC=TL431;TL431;Voltage Ref.;;
*SYM=TL431
.SUBCKT TL431 7 6 11
*             K A FDBK
.MODEL DCLAMP D (IS=13.5N RS=25M N=1.59 
+ CJO=45P VJ=.75 M=.302 TT=50.4N BV=34V IBV=1MA)
V1 1 6 2.495
R1 6 2 15.6
C1 2 6 .5U
R2 2 3 100
C2 3 4 .08U
R3 4 6 10
G2 6 8 3 6 1.73
D1 5 8 DCLAMP
D2 7 8 DCLAMP
V4 5 6 2
G1 6 2 1 11 0.11
.ENDS
*********
*SRC=LM136;LM136;Voltage Ref.;2.5V;
*SYM=TL431
.SUBCKT LM136 8 3 6
*              K A FDBK
.MODEL D D
.MODEL D2 D(IS=1.02E-9 N=1.84 RS=23)
V1 1 3 1.245
R2 8 2 6K
R3 2 3 6K
R4 6 2 30K
C1 7 3 13U
R5 7 3 6
D2 7 2 D
G2 9 3 3 7 1.6
D3 8 9 D
C2 2 3 30P
D4 3 8 D2
D6 9 4 D2
V3 4 3 5
G1 3 7 1 2 1
.ENDS
********
*SRC=LM337K;LM337K;Voltage Reg.;;
*SYM=LM317TI
.SUBCKT LM337K 8      1    19
*Connections  Input  Adj. Output
*LM337 negative voltage regulator
.MODEL QN NPN (BF=50 TF=1N CJC=1P)
.MODEL QPOUT PNP  (BF=50 TF=1N RE=.2 CJC=1P)
.MODEL QP PNP CJC=1P  TF=2N
.MODEL DN D
.MODEL D2 D BV=12 IBV=100U
R10 25 6 1K
Q3 8 17 16 QPOUT
Q4 8 25 17 QP
R18 19 17 250
R19 19 16 .3
G1 8 6 1 18 .1
C7 6 2 .04U
R24 2 8 100
I_ADJ 0 1 65U
R26 8 25 200K
Q5 25 4 19 QP
R27 16 4 200
R28 7 4 7K
D1 8 7 D2
D2 8 6 DN
V1 18 19 1.25
.ENDS
************

